Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right vulvar abscess/cellulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ y/o who presents as direct admission for right
vulvar abscess with overlying cellulitis, s/p failed incision 
and
drainage x2 and not improving on PO Bactrim.  

She reports onset of sx on ___. At work, noticed discomfort 
with
walking and a right labial mass. Tried warm compresses with no
improvement. The next day, she presented for urgent care and was
sent to ED, where she underwent I&D of right vulvar abscess with
packing.  She was started on Bactrim.  She was seen for follow 
up
by her PCP ___ ___, at which time her packing was removed.
However, her wound was notable for significant induration and
foul smelling discharge.  She was seen in ___ office 
on
___, during which time her prior incision was extended to 2.5cm
and her wound was re-explored.  A loculation was discovered and
broke up.  At that time, wound was notable for surrounding 1-2 
cm
induration on either side and 3 cm induration at the top. The
wound was re-packed with a plan for continuing Bactrim.  She
returned to the office today (___) with minimal improvement in
pain. She was noted to have persistent cellulitis and 
induration,
with a light thin bloody drainage with a foul odor.  Her packing
was removed and then replaced.  She was referred for admission
for IV antibiotics with plans for an ultrasound and possibly CT
scan to further evaluate the infection. 

Here, she reports ongoing right vulvar pain. She does not feel
"the knot" anymore but continues to have pain in the right vulva
affecting her comfort and ability to move around. Cannot sit on
bottom so is lying on side in bed. Walking is okay. Is wearing a
pad, has noticed some blood and ___ discharge. Has been using
Vicodin for pain control, once or twice daily over the weekend.

Denies fevers, chills, sweats, myalgias, arthralgias, abdominal
or pelvic pain. Did have malaise and myalgias prior to
presentation on ___. Denies PO intolerance, nausea,
vomiting, diarrhea. Endorses intermittent constipation. Last BM
was this morning. Denies vulvar itching or irritation. No
malodorous discharge prior to this abscess.

Denies recent travel. Denies pubic hair shaving, waxing,
douching, topical ointments/lubricants/moisturizers, use of sex
toys, recent intercourse. Denies new sexual contacts. Last
sexually active about a year ago. No concerns for STIs.  Wonders
if her sx arose from a ingrown hair. Has had in past but not as
bad as this. 

Has been compliant with Bactrim BID since ___. 

 
Past Medical History:
OB History:
- G3P3
- SVDx3

GYN History:
- No menses on Mirena IUD since ___ had spotting for 1.5 weeks
approximately 1 week ago 
- Denies STIs, vulvar abscess, Bartholin's cyst
- Remote history of abnormal pap smears, last pap ___ normal
- Abnormal uterine bleeding in ___ with benign endometrial
biopsy
- Fibroids; IUD in place since ___

PMH:
- Depression
- ? HTN: dx last year, monitored at home and BPs wnl, never on
meds
- Insomnia
- Hx Vitamin D deficiency
- Hx Iron deficiency anemia

Surgical History:
- Laparoscopic tubal ligation
- Wisdom teeth extraction                    

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, non tender, no rebound/guarding
GU: 2 cm area of induration on right labia with incision site 
visible, iodoform packing in place, stained with serosanguinous 
drainage
Ext: no TTP
 
Pertinent Results:
___ 08:45AM BLOOD WBC-6.4 RBC-4.47 Hgb-12.5 Hct-40.6 
MCV-91# MCH-28.0 MCHC-30.8* RDW-12.7 RDWSD-42.3 Plt ___
___ 12:18PM BLOOD WBC-6.3 RBC-4.28 Hgb-12.5 Hct-41.8 
MCV-98# MCH-29.2 MCHC-29.9* RDW-13.2 RDWSD-47.2* Plt ___
___ 10:00AM BLOOD WBC-6.5 RBC-4.57 Hgb-13.2 Hct-42.0 MCV-92 
MCH-28.9 MCHC-31.4* RDW-12.9 RDWSD-43.3 Plt ___
___ 08:45AM BLOOD Neuts-57.1 ___ Monos-5.3 Eos-2.2 
Baso-1.1* Im ___ AbsNeut-3.68 AbsLymp-2.19 AbsMono-0.34 
AbsEos-0.14 AbsBaso-0.07
___ 12:18PM BLOOD Neuts-61.9 ___ Monos-5.5 Eos-1.4 
Baso-1.1* Im ___ AbsNeut-3.92# AbsLymp-1.87 AbsMono-0.35 
AbsEos-0.09 AbsBaso-0.07
___ 08:45AM BLOOD Glucose-96 UreaN-12 Creat-0.8 Na-137 
K-4.9 Cl-102 HCO3-25 AnGap-15
___ 03:35PM BLOOD Glucose-79 UreaN-10 Creat-0.9 Na-132* 
K-4.6 Cl-97 HCO3-23 AnGap-17
___ 12:18PM BLOOD Glucose-84 UreaN-13 Creat-1.0 Na-130* 
K-9.4* Cl-99 HCO3-19* AnGap-21*
___ 08:45AM BLOOD Calcium-10.0 Phos-3.8 Mg-2.1
___ 03:35PM BLOOD Calcium-10.0 Phos-3.5 Mg-2.0
___ 12:18PM BLOOD Calcium-9.4 Phos-4.0 Mg-2.2
___ 08:45AM BLOOD HBsAg-Negative HBsAb-Negative
___ 08:45AM BLOOD HIV Ab-Negative
___ 08:45AM BLOOD HCV Ab-Negative
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
with a right labial abscess and surrounding cellulitis after 
failed outpatient incision and drainage and failed PO Bactrim.  
She underwent pelvic ultrasound on ___, which was notable for 
an area of induration and central air pocket, but no fluid.  She 
was initially started on IV vancomycin and ceftriaxone 
(___).  IV flagyl was added ___.  The wound 
cavity was packed with 0.25" iodoform dressing, and wet to dry 
dressings were replaced daily.  Her pain was controlled with 
tylenol and oxycodone.  Her abscess/cellulitis was cultured 
(___), and results were notable for gram stain negative, mixed 
flora, anaerobic no growth by the time she was discharged.  
Vulvar biopsy showed benign fibroadipose tissue with acute or 
chronic inflammation.  On ___, her symptoms and exam had 
improved, so she was transitioned to PO clindamycin only.  

Of note, she had negative STI testing while in house:  negative 
gonorrhea, chlamydia, HIV, hepatitis B, hepatitis C, and 
syphilis.

By ___, her symptoms had improved, her abscess/cellulitis 
had improved, she was ambulating independently, and pain was 
well controlled with oral medications. She was then discharged 
home in stable condition on PO clindamycin with arrangements for 
daily ___ for dressing changes as well as outpatient follow-up 
scheduled.

 
Medications on Admission:
Mirena, sertraline 50', trazodone 50' qhs, vitamin d, ferrous 
gluconate 325''

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Clindamycin 450 mg PO Q6H 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth every 6 hours 
Disp #*120 Capsule Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
per day Disp #*40 Capsule Refills:*1 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*14 Tablet Refills:*0 
6.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
vulvar cellulitis/abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for treatment of 
your vulvar infection.  We treated you with IV antibiotics, and 
your symptoms improved, so we transitioned you to oral 
antibiotics.  You have recovered well and the team believes you 
are ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.
*
A visiting nurse ___ come to change your dressing daily.  You 
should take the clindamycin antibiotics with plenty of water.  
You will be taking these for 10 days.
*
General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your follow up appointment.
* Nothing in the vagina at least until your follow up 
appointment with Dr. ___.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* A visiting nurse ___ come to change your dressing daily.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

Your labs here showed that you are not immune to Hepatitis B.  
Please follow up with your primary care doctor to discuss 
vaccination.

 
Followup Instructions:
___